US04772312
5 g (0.015 mole) of 5-propionamido-1-(3,5-dichloropyrid-2-yl)-4-nitro-pyrazole and 10 ml of concentrated hydrochloric acid are heated under reflux in 15 ml of ethanol for 4 hours, the solvent is distilled off in vacuo, the residue is taken up in 400 ml of methylene chloride and the mixture is neutralized with sodium bicarbonate solution, washed with sodium chloride solution, dried over sodium sulphate and freed from the solvent in vacuo. 3.8 g (92% of theory) of 5-amino-1-(3,5-dichloropyrid-2-yl)-4-nitropyrazole of melting point 194° C. are obtained.

reactant | 5-propionamido-1-(3,5-dichloropyrid-2-yl)-4-nitro-pyrazole | 0.015 mole, 5 g | C(CC)(=O)NC1=C(C=NN1C1=NC=C(C=C1Cl)Cl)[N+](=O)[O-] | C11H9Cl2N5O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-amino-1-(3,5-dichloropyrid-2-yl)-4-nitropyrazole | 3.8 g, 92% | NC1=C(C=NN1C1=NC=C(C=C1Cl)Cl)[N+](=O)[O-] | C8H5Cl2N5O2
